US07335660B2
f) (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide
To a solution of crude (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile (178 g, 0.88 mol) in methanol (460 mL) and DMSO (125 mL) was added potassium carbonate (13 g, 94 mmol). 35% hydrogen peroxide (102 mL) was then added dropwise while maintaining the temperature of the mixture below 50° C. The reaction mixture was then allowed to stir for 1 h at ambient temperature. Analysis of an aliquot by silica TLC (ethyl acetate) indicated that the reaction was complete. Water (130 mL) was added and methanol removed in vacuo. Water (800 mL) and 1N HCl (100 mL) were added and the mixture allowed to stir overnight. The solid was filtered, washed with water, and dried. Recrystallization from methyl(i-butyl)ketone gave the title compound.

reactant | (1S)-1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile | 0.88 mol, 178 g | OCC[C@@H]1OCCC2=C1C=CC(=C2)C#N | C12H13NO2
reactant | potassium carbonate | 94 mmol, 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 102 mL | OO | H2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 460 mL | CO | CH4O
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
solvent | Water | 130 mL | O | H2O
product | (1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carboxamide | OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C12H15NO3
